US04950674
2-[3-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]benzonitrile
A mixture of 7.41 g (0.025 mole) of [4-[bis(4-fluorophenyl)methyl]piperidine, 4.90 g (0.025 mole) of 2-(3-chloropropoxy)benzonitrile, and potassium carbonate, 5.54 g (0.04 mole) was heated overnight at reflux in 350 ml of 1-butanol containing potassium iodide (0.2 g). The mixture was concentrated to dryness and the resulting residue was partitioned several times between water and chloroform. The chloroform layer was dried (anhydrous sodium sulfate), filtered, and solvent removed to give a brown oil. The oil was triturated with ethyl ether and placed in a freezer overnight. White crystals were obtained and dried in vacuo overnight at room temperature. A yield of 5.15 g (46.1%) of analytically pure material, m.p. 88.5°-90° C., was obtained.

reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | 2-(3-chloropropoxy)benzonitrile | 0.025 mole, 4.90 g | ClCCCOC1=C(C#N)C=CC=C1 | C10H10ClNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
solvent | 1-butanol | 350 ml | C(CCC)O | C4H10O
product | 2-[3-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]benzonitrile | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=C(C#N)C=CC=C1)C1=CC=C(C=C1)F | C28H28F2N2O
